US04906467
A. Preparation of 12(R)-HETE
The activity of Na+ -K+ -ATPase was measured as the rate of release of inorganic phosphate in the presence of 30 mM histidine, 20 mM KCl, 30 mM NaCl, 3 mM MgCl2 and 3 mM ATP, pH 7.5 [Jorgenson, supra]. After equilibration for 5 min. at 37° C., 10 μl of the enzyme preparation (1-5 μg protein) was added to 0.5 ml of reaction mixture. The reaction was allowed to proceed for 30 min. at 37° C. The compounds to be tested were dissolved in PBS buffer and added to the enzyme 10 min. prior to the addition of the reaction mixture. Ouabain was dissolved in distilled water. The reaction was terminated by the addition of 0.8 ml color reagent containing ammonium molybdate malachite green and sterox as described by O. A. Candia et al., Biochim. Biophys. Acta 602, pp. 389-400 (1980). After 1 min., 100 μl of 34% sodium citrate solution was added and mixed. The final solution was then read at 660 mm in a Beckman DB spectrophotometer. Al solutions were read against references containing the same concentration of ATP as the incubation tubes. Enzyme activity was expressed as μmol Pi released/h/mg protein.

reactant | histidine | 30 mM | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | KCl | 20 mM | [Cl-].[K+]
reactant | NaCl | 30 mM | [Na+].[Cl-]
reactant | MgCl2 | 3 mM | [Mg+2].[Cl-].[Cl-]
reactant | ATP | 3 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | Ouabain | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@H]2C[C@H]([C@@]3([C@@H]4[C@@H](CC[C@@]3(C2)O)[C@]5(CC[C@@H]([C@]5(C[C@H]4O)C)C6=CC(=O)OC6)O)CO)O)O)O)O | C29H44O12
solvent | water | O | H2O
product | 12(R)-HETE | CCCCCC=CC[C@H](C=CC=CCC=CCCCC(=O)O)O | C20H32O3
